US07820707B2
a) (5-Trifluoromethyl-2H-pyrazol-3-yl)-methanol
3-(Trifluoromethyl)pyrazole-5-carbonyl chloride (500 mg, 2.52 mmol) was dissolved in THF (10 mL). The reaction mixture was put under a N2 atmosphere and LiAlH4 (191 mg, 5.03 mmol) was added portionwise. The reaction mixture was stirred at RT for 2 days before adding MeOH (10 mL). The reaction mixture was concentrated in vacuo to give a grey solid. EtOAc (20 mL) was added and the crude reaction product stirred at RT for 30 min. The resulting solid was filtered off and the filtrate concentrated in vacuo to give the crude product which was used without further purification in the next step.

reactant | 3-(Trifluoromethyl)pyrazole-5-carbonyl chloride | 2.52 mmol, 500 mg | FC(C1=NNC(=C1)C(=O)Cl)(F)F | C5H2ClF3N2O
reactant | LiAlH4 | 5.03 mmol, 191 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | MeOH | 10 mL | CO | CH4O
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (5-Trifluoromethyl-2H-pyrazol-3-yl)-methanol | FC(C=1C=C(NN1)CO)(F)F | C5H5F3N2O
